US08193359B2
K2CO3 (122 mg, 0.88 mmol) and 18C6 (catalytic amount) were added to a stirred solution of (1-tert-butoxycarbonylpiperidin-4-ylmethyl)triphenylphosphonium iodide (491 mg, 0.88 mmol) and furo[2,3-c]pyridine-2-carbaldehyde (65 mg, 0.44 mmol) in anhydrous CH2Cl2 (10 mL). After 64 h, the reaction mixture was partitioned between CH2Cl2 (50 mL) and H2O (20 mL). The aqueous phase was further extracted with CH2Cl2 (2×20 mL), then the combined organic extracts were washed with H2O (20 mL) and brine (20 mL), before being dried (MgSO4). Filtration, solvent evaporation, and flash chromatography (IH-EtOAc, 7:3) afforded 4-(2-furo[2,3-c]pyridin-2-ylvinyl)piperidine-1-carboxylic acid tert-butyl ester: m/z (ES+)=329.2 [M+H]+. This alkene (30 mg, 91 μmol) was hydrogenated, as described above in Example 18, to yield the title compound: RT=2.86 min; m/z (ES+)=331.2 [M+H]+.

reactant | K2CO3 | 0.88 mmol, 122 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (1-tert-butoxycarbonylpiperidin-4-ylmethyl)triphenylphosphonium iodide | 0.88 mmol, 491 mg | [I-].C(C)(C)(C)OC(=O)N1CCC(CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | furo[2,3-c]pyridine-2-carbaldehyde | 0.44 mmol, 65 mg | O1C(=CC=2C1=CN=CC2)C=O | C8H5NO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-furo[2,3-c]pyridin-2-ylvinyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=CC1=CC=2C(=CN=CC2)O1 | C19H24N2O3
